US04284631
Phosphoryl chloride (1.02 g.), 2-(2-formamidothiazol-4-yl)-2-(3-isoxazolylmethoxyimino)-acetic acid (syn isomer, 1.0 g.), N,N-dimethylformamide (0.448 g.) and tetrahydrofuran (10 ml.) were treated in a similar manner to that of Example 5-(1) to give an activated acid solution. On the other hand, a mixture of 7-amino-3-cephem-4-carboxylic acid (0.91 g.), tetrahydrofuran (10 ml.) acetone (5 ml.) and water (5 ml.) was adjusted to pH 7:5 with 20% aqueous sodium carbonate at 0° to -5° C. The activated acid solution was added dropwise to the above solution at 0° to -5° C. while keeping at pH 7.5 to 8.0. The mixture was treated in a similar manner to that of Example 5-(1) to give 7-[2-(2-formamidothiazol-4-yl)-2-(3-isoxazolylmethoxyimino)acetamido]-3-cephem-4-carboxylic acid (syn isomer, 1.25 g.)

reactant | Phosphoryl chloride | 1.02 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(2-formamidothiazol-4-yl)-2-(3-isoxazolylmethoxyimino)-acetic acid | 1.0 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCC1=NOC=C1 | C10H8N4O5S
reactant | 7-amino-3-cephem-4-carboxylic acid | 0.91 g | NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O | C7H8N2O3S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 5 ml | O | H2O
solvent | acetone | 5 ml | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 0.448 g | CN(C=O)C | C3H7NO
product | 7-[2-(2-formamidothiazol-4-yl)-2-(3-isoxazolylmethoxyimino)acetamido]-3-cephem-4-carboxylic acid | 1.25 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCC1=NOC=C1 | C17H14N6O7S2
